US07842688B2
b) 4-(2-Hydroxyphenyl)-N-methylbutyramide
A solution of 1.0 g of 4,5-dihydro-3H-benzo[b]oxepin-2-one and 40 ml of 10% methylamine in isopropanol is heated in an autoclave at 100° C. over 16 hours. The reaction mixture is cooled to room temperature and concentrated by evaporation. The title compound is obtained as white crystals from the residue by means of flash chromatography (SiO2 60F). Rf=0.20 (4:1 EtOAc-heptane); Rt=2.66.

reactant | 4,5-dihydro-3H-benzo[b]oxepin-2-one | 1.0 g | O1C2=C(CCCC1=O)C=CC=C2 | C10H10O2
reactant | methylamine | 40 ml | CN | CH5N
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(2-Hydroxyphenyl)-N-methylbutyramide | OC1=C(C=CC=C1)CCCC(=O)NC | C11H15NO2
